Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Black stool
 
Major Surgical or Invasive Procedure:
Upper endoscopy

 
History of Present Illness:
Mr. ___ is a ___ male with a history of Lynch
syndrome with history of colonic and duodenal adenomas s/p 
recent
endomucosal resection of duodenal adenoma on ___ who
presents with melena.

On ___ the patient presented for an outpatient endoscopy 
for
an endomucosal resection of a 12mm duodenal adenoma. The
procedure was uncomplicated and three clips were placed for
hemostasis. That night and the following day, he felt, well, but
on ___ AM, he noted multiple episodes of watery, black stool,
associated with some incontinenceHe also noted that when he
brushed his tongue, this elicited a gag reflex where he vomited
stomach acid with black flecks, but no bright blood. He does not
think he would have vomited if he had not brushed his tongue and
currently does not feel nauseous.  He was lightheaded, dizzy, 
and
weak, but attempted to go to work regardless.  He remained this
way, so came to the ER.  

While in the ED the patient's vitals were 97.7 100 124/85 18 
100%
RA. His labs were notable for H/H of 11.6/35.5 (baseline
15.4/46.6) and WBC 14.2. BUN elevated to 33. By report, exam was
otherwise unremarkable. He underwent repeat EGD which showed 

"A single 1.5 cm ulcer was found in the second part of the
duodenum. A visible vessel suggested recent bleeding. Two clips
on the posterior edge of the ulcer bed were seen. 5 cc. of
epinephrine ___ was injected into the ulcer bed for
hemostasis with success. A total of five endoclips were applied
for the purpose of hemostasis. One clip placed at the posterior
edge of the ulcer and to lateral edge of the ulcer successfully.
Given friable anterior edge of the ulcer, clips were difficult 
to
deploy. "

The procedure was uncomplicated.  On arrival to the floor, he
notes some continued black bowel movements but states that his
fatigue has improved overall.  He has no other acute concerns.  

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Duodenal ulcer
Lynch Syndrome 
Abnormal Urine cytology
Pre-DM2, not on any diet modifications currently
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
DISCHARGE EXAM:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular rate; normal perfusion, no appreciable JVD
RESP: Symmetric breathing pattern with no stridor. Breathing is
non-labored
GI: Abdomen soft, non-distended, no hepatosplenomegaly
appreciated.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, normal muscle bulk and tone 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: normal thought content, logical thought process,
appropriate affect 

 
Pertinent Results:
ADMISSION LABS:
___ 04:15PM BLOOD WBC-14.2*# RBC-4.06* Hgb-11.6*# 
Hct-35.5*# MCV-87 MCH-28.6 MCHC-32.7 RDW-13.0 RDWSD-41.3 Plt 
___
___ 08:30AM BLOOD WBC-11.9* RBC-3.30* Hgb-9.6* Hct-29.6* 
MCV-90 MCH-29.1 MCHC-32.4 RDW-13.1 RDWSD-42.8 Plt ___
___ 01:10PM BLOOD WBC-9.3 RBC-3.22* Hgb-9.3* Hct-28.2* 
MCV-88 MCH-28.9 MCHC-33.0 RDW-13.0 RDWSD-41.9 Plt ___

DISCHARGE LABS:
___ 07:28AM BLOOD WBC-8.5 RBC-2.96* Hgb-8.5* Hct-26.1* 
MCV-88 MCH-28.7 MCHC-32.6 RDW-12.9 RDWSD-41.4 Plt ___
___ 08:30AM BLOOD Neuts-63.4 ___ Monos-7.1 Eos-1.4 
Baso-0.3 Im ___ AbsNeut-7.52* AbsLymp-3.24 AbsMono-0.85* 
AbsEos-0.17 AbsBaso-0.04
___ 07:28AM BLOOD ___
___ 07:28AM BLOOD Glucose-129* UreaN-16 Creat-0.8 Na-142 
K-4.3 Cl-102 HCO3-28 AnGap-12

EGD report ___
Esophagus:  
 Mucosa: Normal mucosa was noted.  
Stomach:  
 Mucosa: Normal mucosa was noted.  
Duodenum:  
 Excavated Lesions A single 1.5 cm ulcer was found in the second 
part of the duodenum. A visible vessel suggested recent 
bleeding. Two clips on the posterior edge of the ulcer bed were 
seen. 5 cc. of epinephrine ___ was injected into the ulcer 
bed for hemostasis with success. A total of five endoclips were 
applied for the purpose of hemostasis. One clip placed at the 
posterior edge of the ulcer and to lateral edge of the ulcer 
successfully. Given friable anterior edge of the ulcer, clips 
were difficult to deploy.  

Impression: Normal mucosa in the esophagus
Normal mucosa in the stomach
Ulcer in the second part of the duodenum (injection, endoclip)
Otherwise normal EGD to third part of the duodenum 

 
Brief Hospital Course:
Mr. ___ is a ___ male with a history of Lynch syndrome with 
history of colonic and duodenal adenomas s/p recent endomucosal 
resection of duodenal adenoma on ___, which was complicated 
by melena requiring repeat EGD on ___ for
epi injection bleeding area and further clipping x5.

# Acute blood loss anemia, upper GI Bleeding 
s/p EGD ___ with 3 clips and EGD in ED on this admission with 
5 clips Hgb 11.6 last night ->9.6 this morning. However, 
hemodynamically and clinically stable the  post-procedure with 
no further bleeding and tolerating a liquid diet, however H/H 
trended down to hgb 8.7.  This remained stable at 8.5 on 
discharge and pt did not have any e/o ongoing bleeding/melena.

# Abnormal Urine cytology - has Urology appointment ___ to 
discuss next steps

# Tobacco use disorder - he is very interested in quitting. We 
discussed risks and strategies, and he is interested in Nicotine 
patch. Started in-house in AM and discharged him with patch.

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO BID 

 
Discharge Medications:
1.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine 21 mg/24 hour  daily Disp #*30 Patch Refills:*2 
2.  Omeprazole 40 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Duodenal ulcer
Lynch syndrome
Pre-diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the hospital due to a bleeding ulcer. You 
had an endoscopy and the ulcer was clipped to stop the bleeding. 
You were monitored overnight and had no further bleeding.

It was a pleasure taking care of you.

Sincerely,
Your ___ team
 
Followup Instructions:
___